US08293513B2
To a stirred solution of 6-aminohexanoic acid (1.5 g, 11.4 mmol) in 1 M NaHCO3 (45 as added 5-(dimethylamino)naphthalene-1-sulfonyl chloride (0.63 g, 2.33 mmol) in acetone (10 mL) and triethylamine (2 mL). The solution was stirred for 1 h, acidified to pH 3 with 2 N HCl, extracted with ethyl acetate (3×15 mL). The organic layer was washed with water (15 mL) and brine (15 mL), dried over Na2SO4. The solvent was evaporated and purified by flash chromatography using CH2Cl2-MeOH to afford 6-(5-dimethylaminonaphthalene-1-sulfonamido)hexanoic acid as a green sticky oil (0.76 g, 92%). 1H NMR (CDCl3, 400 MHz) δ 10.66 (br, 1H), 8.46 (d, 1H, J=8.4 Hz), 8.33 (d, 1H, J=8.4 Hz), 8.19 (d, 1H, J=7.2 Hz), 7.44 (m, 2H), 7.09 (d, 1H, J=7.6 Hz), 5.66 (br, 1H), 2.85 (m, 2H), 2.79 (s, 6H), 2.08 (t, 2H, J=8.8, 7.6 Hz), 1.32 (m, 4H), 1.12 (m, 2H); 13C NMR (100 MHz) δ 179.29, 151.67, 135.03, 130.18, 129.72, 129.58, 129.25, 128.26, 123.16, 119.01, 115.20, 45.30, 42.88, 33.98, 29.07, 25.74, 24.01.

reactant | 6-aminohexanoic acid | 11.4 mmol, 1.5 g | NCCCCCC(=O)O | C6H13NO2
reactant | 5-(dimethylamino)naphthalene-1-sulfonyl chloride | 2.33 mmol, 0.63 g | CN(C1=C2C=CC=C(C2=CC=C1)S(=O)(=O)Cl)C | C12H12ClNO2S
reactant | HCl | 2 N | Cl | ClH
solvent | NaHCO3 | 1 M | C(=O)(O)[O-].[Na+]
solvent | acetone | 10 mL | CC(=O)C | C3H6O
solvent | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
product | 6-(5-dimethylaminonaphthalene-1-sulfonamido)hexanoic acid | 0.76 g, 92% | CN(C1=C2C=CC=C(C2=CC=C1)S(=O)(=O)NCCCCCC(=O)O)C | C18H24N2O4S
